US04012380
Benzhydryl 7-(2-thienylacetamido)-3-(1-acetoxyethyl)-3-cephem-4-carboxylate 1-oxide.
To a cooled (5° C.), stirred solution of 0.897 g. of benzhydryl 7-(2-thienylacetamido)-3-(1-acetoxyethyl)-2-cephem-4-carboxylate in 80 ml. of chloroform was added a solution of 0.348 g. of 85 percent m-chloroperbenzoic acid in 3 ml. of chloroform. The reaction mixture was allowed to stir with cooling for 30 minutes after which time it was transferred to a separatory funnel with the aid of additional chloroform and washed successively with sodium bicarbonate solution (2X), and brine (2X) and dried over anhydrous sodium sulfate. The residue obtained by evaporation in vacuo to a froth which was chromatographed on a silica gel column using a toluene-ethyl acetate gradient to give 0.243 g. (26 percent) of what was labeled diastereoisomer I and 0.514 g. (55 percent) of what was labeled diastereoisomer II of the title product; isomer I coming off the column first.

reactant | benzhydryl 7-(2-thienylacetamido)-3-(1-acetoxyethyl)-2-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)C(C)OC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N2O6S2
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Benzhydryl 7-(2-thienylacetamido)-3-(1-acetoxyethyl)-3-cephem-4-carboxylate 1-oxide | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)C(C)OC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N2O7S2
